US08030302B2
tert-Butyl 5-(5-(benzyloxy)-1-(tetrahydro-2H-pyran-2-yl)-1H-indazol-6-yl)pyridin-2-ylcarbamate
To a solution of 5-(5-(benzyloxy)-1-(tetrahydro-2H-pyran-2-yl)-1H-indazol-6-yl)pyridin-2-amine (310 mg, 774 μmol) in THF (20 mL) is added di-tert-butyldicarbonate (250 mg, 1.13 mmol) and TEA (1 mL, 7.17 mmol). After the reaction mixture is stirred at RT for 3 hours, it is partitioned between EtOAc (50 mL) and saturated aqueous NH4Cl (20 mL). The organic phase is separated, dried and concentrated. The residue is purified by silica gel column chromatography eluting with PE:EtOAc (3:1) to give the product (260 mg, 67.1% yield). MS (m/z): 501.2 (M+H).

reactant | 5-(5-(benzyloxy)-1-(tetrahydro-2H-pyran-2-yl)-1H-indazol-6-yl)pyridin-2-amine | 774 μmol, 310 mg | C(C1=CC=CC=C1)OC=1C=C2C=NN(C2=CC1C=1C=CC(=NC1)N)C1OCCCC1 | C24H24N4O2
reactant | di-tert-butyldicarbonate | 1.13 mmol, 250 mg | C(C)(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
reactant | EtOAc | CCOC(=O)C | C4H8O2
solvent | THF | 20 mL | C1CCOC1 | C4H8O
product | tert-Butyl 5-(5-(benzyloxy)-1-(tetrahydro-2H-pyran-2-yl)-1H-indazol-6-yl)pyridin-2-ylcarbamate | 260 mg, 67.1% yield | C(C1=CC=CC=C1)OC=1C=C2C=NN(C2=CC1C=1C=CC(=NC1)NC(OC(C)(C)C)=O)C1OCCCC1 | C29H32N4O4
